US06894061B2
4-[(2-Bromo-6-phenylphenanthridin-5(6H)-yl)sulfonyl]phenol
A stirred suspension of 2-bromo-5-[(4-methoxyphenyl)sulfonyl]-6-phenyl-5,6-dihydrophenanthridine (1.01 g, 2.0 mmol) and cyclohexene (3.70 g, 45 mmol) was treated at room temperature under nitrogen with a solution of 1.0 M boron tribromide in dichloromethane (12 mL, 12 mmol). After stirring for approximately two hours at room temperature, the reaction was quenched with methanol (20 mL) and diluted with dichloromethane. The mixture was washed sequentially with an aqueous potassium carbonate solution, a saturated, aqueous, sodium chloride solution, and water. The organic phase was dried over anhydrous sodium sulfate, filtered through a short column of silica gel, and eluted with ethyl acetate. The ethyl acetate phase was evaporated in vacuo to a crude orange residue (1.0 g,). The crude residue was purified by preparative chromatography on a Biotage® 40 Mi column of pre-packed silica gel (90 g) with gradient elution of between 10% to 30% methyl tert-butyl ether in hexane at a flow rate of 50 mL/min; and afforded, after evaporation of the solvent, a colorless oil. Crystallization of the colorless oil from a mixture of ethyl acetate-diethyl ether-hexane yielded the title compound (0.845 g, 1.72 mmol, 86%) as a homogeneous, colorless, crystalline solid, m.p. 262-265° C.;

reactant | 2-bromo-5-[(4-methoxyphenyl)sulfonyl]-6-phenyl-5,6-dihydrophenanthridine | 2.0 mmol, 1.01 g | BrC1=CC=2C3=CC=CC=C3C(N(C2C=C1)S(=O)(=O)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C26H20BrNO3S
reactant | cyclohexene | 45 mmol, 3.70 g | C1=CCCCC1 | C6H10
reactant | boron tribromide | 1.0 M | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 12 mmol, 12 mL | ClCCl | CH2Cl2
product | 4-[(2-Bromo-6-phenylphenanthridin-5(6H)-yl)sulfonyl]phenol | 1.72 mmol, 0.845 g, 86% | BrC1=CC=2C3=CC=CC=C3C(N(C2C=C1)S(=O)(=O)C1=CC=C(C=C1)O)C1=CC=CC=C1 | C25H18BrNO3S
